US06191124B1
A solution of 3-Methylimidazo[2,1-b]thiazole-5-carboxylic acid ethyl ester (Formula C-4) (1.93 g, 9.2 mmol) in dry THF (20 ml) at 0° was treated with LiAlH4 (12.3 mmols, 0.47 gms) and reacted at 25° for 2 hours. The reaction was quenched by serial additions of 2% aqueous.. THF (24 mL), 15% NAOH (0.47 mL), and 2% aqueous THF (1.5 mL). The suspension was filtered and the filtrate was concentrated to a white solid (1.48 gm). The solid was recrystallized from isopropanol to yield pure 3-Methylimidazo[2,1-b]thiazole-5-Methanol (FIG. C-5) (1.18 g), m.p. 161-162°.

reactant | 3-Methylimidazo[2,1-b]thiazole-5-carboxylic acid ethyl ester | 9.2 mmol, 1.93 g | C(C)OC(=O)C1=CN=C2SC=C(N21)C | C9H10N2O2S
reactant | LiAlH4 | 12.3 mmols, 0.47 gms | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-Methylimidazo[2,1-b]thiazole-5-Methanol | 1.18 g | CC=1N2C(SC1)=NC=C2CO | C7H8N2OS
